US04618677
The procedure described in Example 2 was followed, using 1.6 g of phenyl isocyanate, 4.5 g of 3-[4-(1-phenylethyl)piperazin-1-yl]propanethiol dihydrochloride, 1.3 g of triethylamine and 50 ml of methylene chloride, to give 2.1 g (38% of theory) of N-phenyl-S-{3-[4-(1-phenylethyl)piperazin-1-yl]propyl}thiocarbamate dihydrochoride dihydrate as a white crystalline solid, M.p. 227°-229° C.

reactant | phenyl isocyanate | 1.6 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | 3-[4-(1-phenylethyl)piperazin-1-yl]propanethiol dihydrochloride | 4.5 g | Cl.Cl.C1(=CC=CC=C1)C(C)N1CCN(CC1)CCCS
reactant | triethylamine | 1.3 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-phenyl-S-{3-[4-(1-phenylethyl)piperazin-1-yl]propyl}thiocarbamate dihydrochoride dihydrate | 2.1 g, 38% | O.O.Cl.Cl.C1(=CC=CC=C1)NC(O)=SCCCN1CCN(CC1)C(C)C1=CC=CC=C1 | InChI=1S/C22H31N3OS.2ClH.2H2O/c1-19(20-9-4-2-5-10-20)25-16-14-24(15-17-25)13-8-18-27-22(26)23-21-11-6-3-7-12-21;;;;/h2-7,9-12,19,23,26-27H,8,13-18H2,1H3;2*1H;2*1H2
